US08859573B2
2-(4-((5-(trifluoromethyl)pyridin-2-yl)oxy)phenyl)ethanol
The title compound was prepared by a procedure similar to that described for D3 starting from 4-(2-hydroxyethyl)phenol and 2-chloro-5-(trifluoromethyl)pyridine. LC-MS (ESI): m/z 284 [M+H]+; 2.97 min (ret time).

reactant | 4-(2-hydroxyethyl)phenol | OCCC1=CC=C(C=C1)O | C8H10O2
reactant | 2-chloro-5-(trifluoromethyl)pyridine | ClC1=NC=C(C=C1)C(F)(F)F | C6H3ClF3N
product | 2-(4-((5-(trifluoromethyl)pyridin-2-yl)oxy)phenyl)ethanol | FC(C=1C=CC(=NC1)OC1=CC=C(C=C1)CCO)(F)F | C14H12F3NO2
